US08378095B2
A solution of tert-butyl 4-nitro-1H-pyrazole-1-carboxylate (1.0 g, 4.7 mmol) in MeOH (120 ml) was passed through the H-Cube with full hydrogen mode at 60° C. and 1 bar with a 10% Pd/C cartridge using 1 ml/min flow rate. The solution was then passed through the H-Cube for a second time using identical conditions and the solvent removed in vacuo to afford tert-butyl 4-amino-1H-pyrazole-1-carboxylate (0.82 g, 4.5 mmol, 95%). 1H NMR (DMSO) δ 1.54 (9H, s), 4.42 (2H, s), 7.33 (1H, s), 7.35 (1H, s). LCMS (2) Rt: 1.45 min; m/z (ES+) 206 M+Na+.

reactant | tert-butyl 4-nitro-1H-pyrazole-1-carboxylate | 4.7 mmol, 1.0 g | [N+](=O)([O-])C=1C=NN(C1)C(=O)OC(C)(C)C | C8H11N3O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 120 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 4-amino-1H-pyrazole-1-carboxylate | 4.5 mmol, 0.82 g, 95% | NC=1C=NN(C1)C(=O)OC(C)(C)C | C8H13N3O2
